US04612376
A mixture of 6-(3,4-dimethoxyphenyl)-2-isopropoxy-3-methyl-4(3H)-pyrimidinone (2.5 g) and phosphorus pentasulfide (3.5 g) in pyridine (50 ml) was refluxed for 13 hours with stirring. The reaction mixture was evaporated under reduced pressure. The residue was washed with 1N-hydrochloric acid and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The residue was triturated in ethanol and the resulting precipitate was triturated again in chloroform and collected by filtration to give 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-thioxo-2(1H)-pyrimidinone (0.27 g).

reactant | 6-(3,4-dimethoxyphenyl)-2-isopropoxy-3-methyl-4(3H)-pyrimidinone | 2.5 g | COC=1C=C(C=CC1OC)C1=CC(N(C(=N1)OC(C)C)C)=O | C16H20N2O4
reactant | phosphorus pentasulfide | 3.5 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3,4-dihydro-6-(3,4-dimethoxyphenyl)-3-methyl-4-thioxo-2(1H)-pyrimidinone | 0.27 g | COC=1C=C(C=CC1OC)C1=CC(N(C(N1)=O)C)=S | C13H14N2O3S
